US20010027196A1
2-Amino-4-benzylamino-6-phenyl-pyrimidine-5-carbonitrile
From 2-Amino-4-(methylthio)-6-phenyl-pyrimidine-5-carbonitrile and benzylamine in ethanol. ES-MS m/e (%): 302 (M+H+, 100).

reactant | 2-Amino-4-(methylthio)-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SC)C#N)C1=CC=CC=C1 | C12H10N4S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-benzylamino-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC=CC=C1)C#N)C1=CC=CC=C1 | C18H15N5
